US08541429B2
Step 6. Ethyl 1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
A solution of ethyl (3-methoxy-6,6-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate from the previous step (40.2 mmol theoretically) in acetic acid (65 mL) was treated dropwise with a solution of methyl hydrazine (2.14 mL, 40.2 mmol) in acetic acid (20 mL) and allowed to stand at room temperature overnight. The mixture was then diluted with water (800 mL) and extracted with ethyl acetate (500 mL×2). The organic extracts were washed with brine, dried on Na2SO4 and evaporated to dryness. The crude material was chromatographed on silica gel eluted with dichloromethane/ethyl acetate 100:5 to obtain the pure title compound (4.8 g, 47.7% yield).

reactant | ethyl (3-methoxy-6,6-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate | COC=1C(C(C(CC1)(C)C)C(C(=O)OCC)=O)=O | C13H18O5
reactant | methyl hydrazine | 40.2 mmol, 2.14 mL | CNN | CH6N2
solvent | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 800 mL | O | H2O
product | Ethyl 1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 4.8 g, 47.7% yield | CN1N=C(C=2C(CCC(C12)=O)(C)C)C(=O)OCC | C13H18N2O3
